US04562258
EXAMPLE 2: (E)-3-{6-[3-Dimethylamino-1-(4-tolyl)prop- 1E-enyl]-2-pyridyl}acrylic acid
Treatment of (E)-3-[6-(4-toluoyl)-2-pyridyl]acrylic acid, vide supra, with the Wittig reagent derived from triphenyldimethylaminoethylphosphonium bromide by the method of example 1 gave a mixture of isomeric acids which were separated by fractional crystallization from ethyl acetate. The less-soluble E-isomer, (E)-3-{6-[3-dimethylamino-1-(4-tolyl)prop-1E-enyl]-2-pyridyl}acrylic acid was purified by crystallization from isopropanol, m.p. 222°-225° (decomp.)

reactant | (E)-3-[6-(4-toluoyl)-2-pyridyl]acrylic acid | C1(=CC=C(C=C1)C(=O)C1=CC=CC(=N1)/C=C/C(=O)O)C | C16H13NO3
reactant | triphenyldimethylaminoethylphosphonium bromide | [Br-].C1(=CC=CC=C1)[P+](CCN(C)C)(C1=CC=CC=C1)C1=CC=CC=C1
product | (E)-3-{6-[3-Dimethylamino-1-(4-tolyl)prop- 1E-enyl]-2-pyridyl}acrylic acid | CN(C/C=C(\C1=CC=C(C=C1)C)/C1=CC=CC(=N1)/C=C/C(=O)O)C | C20H22N2O2
